US06727264B1
N-[3-(1-{[1-(2,4-DIFLUOROPHENYL)-1H-INDOL-4-YL]METHYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE:
Prepared by Procedure C and Scheme Q1, with CuBr in place of Cu, using 2,4-difluoro-1-iodobenzene and N-{3-[1-(1H-indol-4-ylmethyl)-4-piperidinyl]phenyl}-2-methylpropanamide: ESMS m/e: 488.0 (M+H)+.

reactant | 2,4-difluoro-1-iodobenzene | FC1=C(C=CC(=C1)F)I | C6H3F2I
reactant | N-{3-[1-(1H-indol-4-ylmethyl)-4-piperidinyl]phenyl}-2-methylpropanamide | N1C=CC2=C(C=CC=C12)CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C24H29N3O
product | N-[3-(1-{[1-(2,4-DIFLUOROPHENYL)-1H-INDOL-4-YL]METHYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | FC1=C(C=CC(=C1)F)N1C=CC2=C(C=CC=C12)CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C30H31F2N3O
